US08703758B2
D) 1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-one
To a solution of 6-(cyclopropylmethoxy)-2-{4-[2-(morpholin-4-yl)-2-oxoethoxy]piperidin-1-yl}-1,3-benzoxazole (2.10 g) in THF (17 mL) was added methylmagnesium chloride (3.0 M THF solution, 5.06 mL), and the mixture was stirred at room temperature for 3 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (1.31 g).

reactant | 6-(cyclopropylmethoxy)-2-{4-[2-(morpholin-4-yl)-2-oxoethoxy]piperidin-1-yl}-1,3-benzoxazole | 2.10 g | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(=O)N2CCOCC2)C=C1 | C22H29N3O5
reactant | methylmagnesium chloride | 3.0 M, 5.06 mL | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-one | 1.31 g | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OCC(C)=O)C=C1 | C19H24N2O4
